US05977412
First a suitable glass-lined reactor is charged with 484.7 lbs. of water, and then with 257.8 lbs. of 32% hydrochloric acid. While maintaining the temperature at less than 30° C., 116.8 lbs. of 2,4-difluoroaniline is added to the hydrochloric acid solution to form a slurry of 2,4-difluoroaniline hydrochloride. The slurry is cooled to 20° C., and then 145.9 lbs. of bromine is added over a 50 minute period, thus maintaining the temperature at less than 45° C. The temperature is held between 20° C. and 45° C. for 30 minutes.

reactant | hydrochloric acid | Cl | ClH
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | water | O | H2O
product | 2,4-difluoroaniline hydrochloride | Cl.FC1=C(N)C=CC(=C1)F | InChI=1S/C6H5F2N.ClH/c7-4-1-2-6(9)5(8)3-4;/h1-3H,9H2;1H
